US09428499B2
Step c: Synthesis of (3-aminophenyl)(azetidin-1-yl)methanone
To a stirred solution of tert-butyl (3-(azetidine-1-carbonyl)phenyl)carbamate (600 mg, 2.171 mmol) in DCM (5.0 ml) was added trifluoroacetic acid (0.167 ml, 2.171 mmol) at 0° C. under nitrogen atmosphere. Reaction was stirred at room temperature for 1 hr. Solvent evaporated up to dryness and the residual solid was dissolved in DCM (20 ml) and washed with saturated solution of NaHCO3. DCM layer was dried over sodium sulphate and evaporated under vacuum. Resulting solid was washed with pentane and ether to give the titled compound (310 mg).

reactant | tert-butyl (3-(azetidine-1-carbonyl)phenyl)carbamate | 2.171 mmol, 600 mg | N1(CCC1)C(=O)C=1C=C(C=CC1)NC(OC(C)(C)C)=O | C15H20N2O3
reactant | trifluoroacetic acid | 2.171 mmol, 0.167 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 5.0 ml | C(Cl)Cl | CH2Cl2
product | (3-aminophenyl)(azetidin-1-yl)methanone | 310 mg | NC=1C=C(C=CC1)C(=O)N1CCC1 | C10H12N2O
